US20010027196A1
To a stirred solution of 250 mg (0.75 mmol) trifluoromethanesulfonic acid 2-amino-5-cyano-6-furan-2-yl-pyrimidin-4-yl ester in 15 ml dioxane under argon at room temperature were added 0.22 ml (0.75 mmol) vinyltributylstannane, 86 mg (0.07 mmol) tetrakis(triphenyl-phosphine)palladium(O) and 1.5 ml (3.0 mmol) 2M aqueous sodium carbonate solution. The reaction mixture was heated at reflux for 16 h, then concentrated in vacuo. The residue was partitioned between ethyl acetate and water and the organic phase washed with brine, dried over sodium sulfate, and concentrated in vacuo. Flash chromatography (1/1 ethyl acetate/hexane) followed by trituration in ether afforded 6 mg (4%) 2-amino-4-furan-2-yl-6-vinyl-pyrimidine-5-carbonitrile as a white crystalline solid. ES-MS m/e (%): 213 (M+H+, 100). Also obtained (as a by-product) was 3 mg (2%) 2-amino-4-ethyl-6-furan-2-yl-pyrimidine-5-carbonitrile as a yellow crystalline solid. ES-MS m/e (%): 215 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 2-amino-5-cyano-6-furan-2-yl-pyrimidin-4-yl ester | 0.75 mmol, 250 mg | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C#N)C=1OC=CC1 | C10H5F3N4O4S
reactant | vinyltributylstannane | 0.75 mmol, 0.22 ml | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | sodium carbonate | 3.0 mmol, 2M, 1.5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 2-amino-4-furan-2-yl-6-vinyl-pyrimidine-5-carbonitrile | 6 mg, 4% | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)C=C | C11H8N4O
